US08957203B2
A solution of 3-(4-fluorophenyl)-6-methoxyisoquinolin-1-ol (350 mg, 1.300 mmol) in POCl3 (1.82 ml, 19.50 mmol) was refluxed (90° C.) for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 50% DCM in Hexanes as eluent. The product fractions were collected and the solvent removed under vacuum to give 1-chloro-3-(4-fluorophenyl)-6-methoxyisoquinoline (340 mg, 91% yield). MS: MS m/z 288.1 (M++1).

reactant | 3-(4-fluorophenyl)-6-methoxyisoquinolin-1-ol | 1.300 mmol, 350 mg | FC1=CC=C(C=C1)C=1N=C(C2=CC=C(C=C2C1)OC)O | C16H12FNO2
reactant | POCl3 | 19.50 mmol, 1.82 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-3-(4-fluorophenyl)-6-methoxyisoquinoline | 340 mg, 91% yield | ClC1=NC(=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)F | C16H11ClFNO
